US04446133
In 50 ml of chloroform was dissolved 10.2 g (0.05 mole) of 1-(4-acetylphenyl)-piperazine at room temperature, and 6.8 g (0.05 mole) of diethylcarbamoyl chloride was dropped to the solution over a period of 30 minutes. The mixture was stirred at room temperature for 5 hours, and the insoluble substance was removed. The filtrate was subjected to distillation under reduced pressure and the residue was made alkaline by 4 N aqueous solution of sodium hydroxide and extracted with 100 ml of toluene. The organic layer was dried with anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The residue was recrystallized from a benzene-hexane mixed solvent to obtain 1-(4-acetylphenyl)-4-diethylcarbamoylpiperazine having a boiling point of 72° to 76° C. The so obtained free base was dissolved in chloroform, and the solution was saturated with gaseous hydrogen chloride and stirred for a certain time. Then, the solution was subjected to a post treatment according to customary procedures to obtain 8.6 g of 1-(4-acetylphenyl)-4-diethylcarbamoylpiperazine hydrochloride having a melting point of 145° to 152° C.

reactant | 1-(4-acetylphenyl)-piperazine | 0.05 mole, 10.2 g | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
reactant | diethylcarbamoyl chloride | 0.05 mole, 6.8 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-acetylphenyl)-4-diethylcarbamoylpiperazine | C(C)(=O)C1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | C17H25N3O2
